US05364955
N-(3-Triethoxysilylpropyl)-aspartic acid di-n-butyl ester
221.0 g (1.0 mol) of 3-aminopropyl-triethoxysilane and 228.0 g (1.0 mol) of maleic acid di-n-butyl ester were reacted by the same procedure used in Example 1. The viscosity of the clear, pale yellow liquid was about 30 mPa.s (23° C). Base titration showed an amine equivalent weight of about 462 g (theory: 449 g).

reactant | 3-aminopropyl-triethoxysilane | 1.0 mol, 221.0 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | maleic acid di-n-butyl ester | 1.0 mol, 228.0 g | C(CCC)OC(\C=C/C(=O)OCCCC)=O | C12H20O4
product | N-(3-Triethoxysilylpropyl)-aspartic acid di-n-butyl ester | C(CCC)OC([C@@H](NCCC[Si](OCC)(OCC)OCC)CC(=O)OCCCC)=O | C21H43NO7Si
